US08664220B2
Step 2: 2-Bromo-6-(4-fluoro-benzyl)-pyridine
Prepared according to the procedure described in Example 84, Step 2, using 2,6-dibromo-pyridine and 4-fluoro-benzylzinc bromide.

reactant | 2,6-dibromo-pyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 4-fluoro-benzylzinc bromide | [Br-].FC1=CC=C(C[Zn+])C=C1
product | 2-Bromo-6-(4-fluoro-benzyl)-pyridine | BrC1=NC(=CC=C1)CC1=CC=C(C=C1)F | C12H9BrFN
